
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
.PARAM

.SUBCKT TOP_eg vdda1 vssa1
RRP0_1_1 vdda1 RP0_vdda1_0_1 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 $L=500.0 m=1 
+ segments=1 rType=Series 
RRP0_1_2 RP0_vdda1_0_1 RP0_vdda1_0_2 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_3 RP0_vdda1_0_2 RP0_vdda1_0_3 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_4 RP0_vdda1_0_3 RP0_vdda1_0_4 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_5 RP0_vdda1_0_4 RP0_vdda1_0_5 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_6 RP0_vdda1_0_5 RP0_vdda1_0_6 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_7 RP0_vdda1_0_6 RP0_vdda1_0_7 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_8 RP0_vdda1_0_7 RP0_vdda1_0_8 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_9 RP0_vdda1_0_8 RP0_vdda1_0_9 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_10 RP0_vdda1_0_9 RP0_vdda1_0_10 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_11 RP0_vdda1_0_10 RP0_vdda1_0_11 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_12 RP0_vdda1_0_11 RP0_vdda1_0_12 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_13 RP0_vdda1_0_12 RP0_vdda1_0_13 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_14 RP0_vdda1_0_13 RP0_vdda1_0_14 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_15 RP0_vdda1_0_14 RP0_vdda1_0_15 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_16 RP0_vdda1_0_15 RP0_vdda1_0_16 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_17 RP0_vdda1_0_16 RP0_vdda1_0_17 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_18 RP0_vdda1_0_17 RP0_vdda1_0_18 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_19 RP0_vdda1_0_18 RP0_vdda1_0_19 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_20 RP0_vdda1_0_19 RP0_vdda1_0_20 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_21 RP0_vdda1_0_20 RP0_vdda1_0_21 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_22 RP0_vdda1_0_21 RP0_vdda1_0_22 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_23 RP0_vdda1_0_22 RP0_vdda1_0_23 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_24 RP0_vdda1_0_23 RP0_vdda1_0_24 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_25 RP0_vdda1_0_24 RP0_vdda1_0_25 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_26 RP0_vdda1_0_25 RP0_vdda1_0_26 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_27 RP0_vdda1_0_26 RP0_vdda1_0_27 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_28 RP0_vdda1_0_27 RP0_vdda1_0_28 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_29 RP0_vdda1_0_28 RP0_vdda1_0_29 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_30 RP0_vdda1_0_29 RP0_vdda1_0_30 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_31 RP0_vdda1_0_30 RP0_vdda1_0_31 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_32 RP0_vdda1_0_31 RP0_vdda1_0_32 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_33 RP0_vdda1_0_32 RP0_vdda1_0_33 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_34 RP0_vdda1_0_33 RP0_vdda1_0_34 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_35 RP0_vdda1_0_34 RP0_vdda1_0_35 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_36 RP0_vdda1_0_35 RP0_vdda1_0_36 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_37 RP0_vdda1_0_36 RP0_vdda1_0_37 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_38 RP0_vdda1_0_37 RP0_vdda1_0_38 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_39 RP0_vdda1_0_38 RP0_vdda1_0_39 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_40 RP0_vdda1_0_39 RP0_vdda1_0_40 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_41 RP0_vdda1_0_40 RP0_vdda1_0_41 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_42 RP0_vdda1_0_41 RP0_vdda1_0_42 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_43 RP0_vdda1_0_42 RP0_vdda1_0_43 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_44 RP0_vdda1_0_43 RP0_vdda1_0_44 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_45 RP0_vdda1_0_44 RP0_vdda1_0_45 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_46 RP0_vdda1_0_45 RP0_vdda1_0_46 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_47 RP0_vdda1_0_46 RP0_vdda1_0_47 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_48 RP0_vdda1_0_47 RP0_vdda1_0_48 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_49 RP0_vdda1_0_48 RP0_vdda1_0_49 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 
+ $L=500.0 m=1 segments=1 rType=Series 
RRP0_1_50 RP0_vdda1_0_49 n1 $SUB=vssa1 $[rpoly_hp_pw] $W=0.330 $L=500.0 m=1 
+ segments=1 rType=Series 
CC0 n1 vssa1 cm3m4 A=10000 P=400 m=1
.ENDS


.SUBCKT user_analog_project_wrapper gpio_analog[17] gpio_analog[16] 
+ gpio_analog[15] gpio_analog[14] gpio_analog[13] gpio_analog[12] 
+ gpio_analog[11] gpio_analog[10] gpio_analog[9] gpio_analog[8] gpio_analog[7] 
+ gpio_analog[6] gpio_analog[5] gpio_analog[4] gpio_analog[3] gpio_analog[2] 
+ gpio_analog[1] gpio_analog[0] gpio_noesd[17] gpio_noesd[16] gpio_noesd[15] 
+ gpio_noesd[14] gpio_noesd[13] gpio_noesd[12] gpio_noesd[11] gpio_noesd[10] 
+ gpio_noesd[9] gpio_noesd[8] gpio_noesd[7] gpio_noesd[6] gpio_noesd[5] 
+ gpio_noesd[4] gpio_noesd[3] gpio_noesd[2] gpio_noesd[1] gpio_noesd[0] 
+ io_analog[10] io_analog[9] io_analog[8] io_analog[7] io_analog[6] 
+ io_analog[5] io_analog[4] io_analog[3] io_analog[2] io_analog[1] 
+ io_analog[0] io_clamp_high[2] io_clamp_high[1] io_clamp_high[0] 
+ io_clamp_low[2] io_clamp_low[1] io_clamp_low[0] io_in[26] io_in[25] 
+ io_in[24] io_in[23] io_in[22] io_in[21] io_in[20] io_in[19] io_in[18] 
+ io_in[17] io_in[16] io_in[15] io_in[14] io_in[13] io_in[12] io_in[11] 
+ io_in[10] io_in[9] io_in[8] io_in[7] io_in[6] io_in[5] io_in[4] io_in[3] 
+ io_in[2] io_in[1] io_in[0] io_in_3v3[26] io_in_3v3[25] io_in_3v3[24] 
+ io_in_3v3[23] io_in_3v3[22] io_in_3v3[21] io_in_3v3[20] io_in_3v3[19] 
+ io_in_3v3[18] io_in_3v3[17] io_in_3v3[16] io_in_3v3[15] io_in_3v3[14] 
+ io_in_3v3[13] io_in_3v3[12] io_in_3v3[11] io_in_3v3[10] io_in_3v3[9] 
+ io_in_3v3[8] io_in_3v3[7] io_in_3v3[6] io_in_3v3[5] io_in_3v3[4] 
+ io_in_3v3[3] io_in_3v3[2] io_in_3v3[1] io_in_3v3[0] io_oeb[26] io_oeb[25] 
+ io_oeb[24] io_oeb[23] io_oeb[22] io_oeb[21] io_oeb[20] io_oeb[19] io_oeb[18] 
+ io_oeb[17] io_oeb[16] io_oeb[15] io_oeb[14] io_oeb[13] io_oeb[12] io_oeb[11] 
+ io_oeb[10] io_oeb[9] io_oeb[8] io_oeb[7] io_oeb[6] io_oeb[5] io_oeb[4] 
+ io_oeb[3] io_oeb[2] io_oeb[1] io_oeb[0] io_out[26] io_out[25] io_out[24] 
+ io_out[23] io_out[22] io_out[21] io_out[20] io_out[19] io_out[18] io_out[17] 
+ io_out[16] io_out[15] io_out[14] io_out[13] io_out[12] io_out[11] io_out[10] 
+ io_out[9] io_out[8] io_out[7] io_out[6] io_out[5] io_out[4] io_out[3] 
+ io_out[2] io_out[1] io_out[0] la_data_in[127] la_data_in[126] 
+ la_data_in[125] la_data_in[124] la_data_in[123] la_data_in[122] 
+ la_data_in[121] la_data_in[120] la_data_in[119] la_data_in[118] 
+ la_data_in[117] la_data_in[116] la_data_in[115] la_data_in[114] 
+ la_data_in[113] la_data_in[112] la_data_in[111] la_data_in[110] 
+ la_data_in[109] la_data_in[108] la_data_in[107] la_data_in[106] 
+ la_data_in[105] la_data_in[104] la_data_in[103] la_data_in[102] 
+ la_data_in[101] la_data_in[100] la_data_in[99] la_data_in[98] la_data_in[97] 
+ la_data_in[96] la_data_in[95] la_data_in[94] la_data_in[93] la_data_in[92] 
+ la_data_in[91] la_data_in[90] la_data_in[89] la_data_in[88] la_data_in[87] 
+ la_data_in[86] la_data_in[85] la_data_in[84] la_data_in[83] la_data_in[82] 
+ la_data_in[81] la_data_in[80] la_data_in[79] la_data_in[78] la_data_in[77] 
+ la_data_in[76] la_data_in[75] la_data_in[74] la_data_in[73] la_data_in[72] 
+ la_data_in[71] la_data_in[70] la_data_in[69] la_data_in[68] la_data_in[67] 
+ la_data_in[66] la_data_in[65] la_data_in[64] la_data_in[63] la_data_in[62] 
+ la_data_in[61] la_data_in[60] la_data_in[59] la_data_in[58] la_data_in[57] 
+ la_data_in[56] la_data_in[55] la_data_in[54] la_data_in[53] la_data_in[52] 
+ la_data_in[51] la_data_in[50] la_data_in[49] la_data_in[48] la_data_in[47] 
+ la_data_in[46] la_data_in[45] la_data_in[44] la_data_in[43] la_data_in[42] 
+ la_data_in[41] la_data_in[40] la_data_in[39] la_data_in[38] la_data_in[37] 
+ la_data_in[36] la_data_in[35] la_data_in[34] la_data_in[33] la_data_in[32] 
+ la_data_in[31] la_data_in[30] la_data_in[29] la_data_in[28] la_data_in[27] 
+ la_data_in[26] la_data_in[25] la_data_in[24] la_data_in[23] la_data_in[22] 
+ la_data_in[21] la_data_in[20] la_data_in[19] la_data_in[18] la_data_in[17] 
+ la_data_in[16] la_data_in[15] la_data_in[14] la_data_in[13] la_data_in[12] 
+ la_data_in[11] la_data_in[10] la_data_in[9] la_data_in[8] la_data_in[7] 
+ la_data_in[6] la_data_in[5] la_data_in[4] la_data_in[3] la_data_in[2] 
+ la_data_in[1] la_data_in[0] la_data_out[127] la_data_out[126] 
+ la_data_out[125] la_data_out[124] la_data_out[123] la_data_out[122] 
+ la_data_out[121] la_data_out[120] la_data_out[119] la_data_out[118] 
+ la_data_out[117] la_data_out[116] la_data_out[115] la_data_out[114] 
+ la_data_out[113] la_data_out[112] la_data_out[111] la_data_out[110] 
+ la_data_out[109] la_data_out[108] la_data_out[107] la_data_out[106] 
+ la_data_out[105] la_data_out[104] la_data_out[103] la_data_out[102] 
+ la_data_out[101] la_data_out[100] la_data_out[99] la_data_out[98] 
+ la_data_out[97] la_data_out[96] la_data_out[95] la_data_out[94] 
+ la_data_out[93] la_data_out[92] la_data_out[91] la_data_out[90] 
+ la_data_out[89] la_data_out[88] la_data_out[87] la_data_out[86] 
+ la_data_out[85] la_data_out[84] la_data_out[83] la_data_out[82] 
+ la_data_out[81] la_data_out[80] la_data_out[79] la_data_out[78] 
+ la_data_out[77] la_data_out[76] la_data_out[75] la_data_out[74] 
+ la_data_out[73] la_data_out[72] la_data_out[71] la_data_out[70] 
+ la_data_out[69] la_data_out[68] la_data_out[67] la_data_out[66] 
+ la_data_out[65] la_data_out[64] la_data_out[63] la_data_out[62] 
+ la_data_out[61] la_data_out[60] la_data_out[59] la_data_out[58] 
+ la_data_out[57] la_data_out[56] la_data_out[55] la_data_out[54] 
+ la_data_out[53] la_data_out[52] la_data_out[51] la_data_out[50] 
+ la_data_out[49] la_data_out[48] la_data_out[47] la_data_out[46] 
+ la_data_out[45] la_data_out[44] la_data_out[43] la_data_out[42] 
+ la_data_out[41] la_data_out[40] la_data_out[39] la_data_out[38] 
+ la_data_out[37] la_data_out[36] la_data_out[35] la_data_out[34] 
+ la_data_out[33] la_data_out[32] la_data_out[31] la_data_out[30] 
+ la_data_out[29] la_data_out[28] la_data_out[27] la_data_out[26] 
+ la_data_out[25] la_data_out[24] la_data_out[23] la_data_out[22] 
+ la_data_out[21] la_data_out[20] la_data_out[19] la_data_out[18] 
+ la_data_out[17] la_data_out[16] la_data_out[15] la_data_out[14] 
+ la_data_out[13] la_data_out[12] la_data_out[11] la_data_out[10] 
+ la_data_out[9] la_data_out[8] la_data_out[7] la_data_out[6] la_data_out[5] 
+ la_data_out[4] la_data_out[3] la_data_out[2] la_data_out[1] la_data_out[0] 
+ la_oenb[127] la_oenb[126] la_oenb[125] la_oenb[124] la_oenb[123] 
+ la_oenb[122] la_oenb[121] la_oenb[120] la_oenb[119] la_oenb[118] 
+ la_oenb[117] la_oenb[116] la_oenb[115] la_oenb[114] la_oenb[113] 
+ la_oenb[112] la_oenb[111] la_oenb[110] la_oenb[109] la_oenb[108] 
+ la_oenb[107] la_oenb[106] la_oenb[105] la_oenb[104] la_oenb[103] 
+ la_oenb[102] la_oenb[101] la_oenb[100] la_oenb[99] la_oenb[98] la_oenb[97] 
+ la_oenb[96] la_oenb[95] la_oenb[94] la_oenb[93] la_oenb[92] la_oenb[91] 
+ la_oenb[90] la_oenb[89] la_oenb[88] la_oenb[87] la_oenb[86] la_oenb[85] 
+ la_oenb[84] la_oenb[83] la_oenb[82] la_oenb[81] la_oenb[80] la_oenb[79] 
+ la_oenb[78] la_oenb[77] la_oenb[76] la_oenb[75] la_oenb[74] la_oenb[73] 
+ la_oenb[72] la_oenb[71] la_oenb[70] la_oenb[69] la_oenb[68] la_oenb[67] 
+ la_oenb[66] la_oenb[65] la_oenb[64] la_oenb[63] la_oenb[62] la_oenb[61] 
+ la_oenb[60] la_oenb[59] la_oenb[58] la_oenb[57] la_oenb[56] la_oenb[55] 
+ la_oenb[54] la_oenb[53] la_oenb[52] la_oenb[51] la_oenb[50] la_oenb[49] 
+ la_oenb[48] la_oenb[47] la_oenb[46] la_oenb[45] la_oenb[44] la_oenb[43] 
+ la_oenb[42] la_oenb[41] la_oenb[40] la_oenb[39] la_oenb[38] la_oenb[37] 
+ la_oenb[36] la_oenb[35] la_oenb[34] la_oenb[33] la_oenb[32] la_oenb[31] 
+ la_oenb[30] la_oenb[29] la_oenb[28] la_oenb[27] la_oenb[26] la_oenb[25] 
+ la_oenb[24] la_oenb[23] la_oenb[22] la_oenb[21] la_oenb[20] la_oenb[19] 
+ la_oenb[18] la_oenb[17] la_oenb[16] la_oenb[15] la_oenb[14] la_oenb[13] 
+ la_oenb[12] la_oenb[11] la_oenb[10] la_oenb[9] la_oenb[8] la_oenb[7] 
+ la_oenb[6] la_oenb[5] la_oenb[4] la_oenb[3] la_oenb[2] la_oenb[1] la_oenb[0] 
+ user_clock2 user_irq[2] user_irq[1] user_irq[0] vccd1 vccd2 vdda1 vdda2 
+ vssa1 vssa2 vssd1 vssd2 wb_clk_i wb_rst_i wbs_ack_o wbs_adr_i[31] 
+ wbs_adr_i[30] wbs_adr_i[29] wbs_adr_i[28] wbs_adr_i[27] wbs_adr_i[26] 
+ wbs_adr_i[25] wbs_adr_i[24] wbs_adr_i[23] wbs_adr_i[22] wbs_adr_i[21] 
+ wbs_adr_i[20] wbs_adr_i[19] wbs_adr_i[18] wbs_adr_i[17] wbs_adr_i[16] 
+ wbs_adr_i[15] wbs_adr_i[14] wbs_adr_i[13] wbs_adr_i[12] wbs_adr_i[11] 
+ wbs_adr_i[10] wbs_adr_i[9] wbs_adr_i[8] wbs_adr_i[7] wbs_adr_i[6] 
+ wbs_adr_i[5] wbs_adr_i[4] wbs_adr_i[3] wbs_adr_i[2] wbs_adr_i[1] 
+ wbs_adr_i[0] wbs_cyc_i wbs_dat_i[31] wbs_dat_i[30] wbs_dat_i[29] 
+ wbs_dat_i[28] wbs_dat_i[27] wbs_dat_i[26] wbs_dat_i[25] wbs_dat_i[24] 
+ wbs_dat_i[23] wbs_dat_i[22] wbs_dat_i[21] wbs_dat_i[20] wbs_dat_i[19] 
+ wbs_dat_i[18] wbs_dat_i[17] wbs_dat_i[16] wbs_dat_i[15] wbs_dat_i[14] 
+ wbs_dat_i[13] wbs_dat_i[12] wbs_dat_i[11] wbs_dat_i[10] wbs_dat_i[9] 
+ wbs_dat_i[8] wbs_dat_i[7] wbs_dat_i[6] wbs_dat_i[5] wbs_dat_i[4] 
+ wbs_dat_i[3] wbs_dat_i[2] wbs_dat_i[1] wbs_dat_i[0] wbs_dat_o[31] 
+ wbs_dat_o[30] wbs_dat_o[29] wbs_dat_o[28] wbs_dat_o[27] wbs_dat_o[26] 
+ wbs_dat_o[25] wbs_dat_o[24] wbs_dat_o[23] wbs_dat_o[22] wbs_dat_o[21] 
+ wbs_dat_o[20] wbs_dat_o[19] wbs_dat_o[18] wbs_dat_o[17] wbs_dat_o[16] 
+ wbs_dat_o[15] wbs_dat_o[14] wbs_dat_o[13] wbs_dat_o[12] wbs_dat_o[11] 
+ wbs_dat_o[10] wbs_dat_o[9] wbs_dat_o[8] wbs_dat_o[7] wbs_dat_o[6] 
+ wbs_dat_o[5] wbs_dat_o[4] wbs_dat_o[3] wbs_dat_o[2] wbs_dat_o[1] 
+ wbs_dat_o[0] wbs_sel_i[3] wbs_sel_i[2] wbs_sel_i[1] wbs_sel_i[0] wbs_stb_i 
+ wbs_we_i
XI0 vdda1 vssa1 / TOP_eg
.ENDS

